2138-05-28 10:39:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - agitation overnight upon waking from sleep
   - head CT
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-5-28**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 82 (67 - 88) bpm
   BP: 132/69(85) {102/58(68) - 163/84(104)} mmHg
   RR: 12 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                    390 mL
                                                                    275 mL
   Urine:
                                                                    390 mL
                                                                    275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -390 mL
                                                                   -275 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.29/78.[**Numeric Identifier 274**]/148//8
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
                             [**2138-5-28**]  12:51 AM
                             [**2138-5-28**]  12:58 AM
   WBC
   TCO2
   41
   40
   Other labs: Lactic Acid:0.7 mmol/L
   Assessment and Plan
   [**Age over 90 **]F DM, CRF admitted from NH with altered mental status.  Tramsferred
   to MICU for close observation, mental status monitoring.
   Respiratory
   - hypercarbic and hypoxemic respiratory failure
   - evidence of chronic resp failure (inc bicarb) underlying acute
   decompensation.
   - Bipap noted to improve CO2, pt becomes agitated but no improvement in
   mental status.
   Delerium/altered mental status
   - waxing and [**Doctor Last Name 282**] course c/w delerium
   - holding sedating meds
   - If further decompensation overnight or is not clearly improving by
   morning, will require intubation / mech ventilation.
   - check TSH, glucose, cortisol
   - no evidence of seizure activity though cannot exclude NCSE without
   EEG
   - neuro consult
   - afeb, wbc nl so unlikely infectious/meningitis
   Arthritis
   CKD
   Cardiomyopathy
   HTN
   -iv lopressor for bp control
   Access
   -assess for PICC - periph sticks challenging
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-5-27**] 04:36 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2138-05-29 07:33:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - neuro- eeg, LP if fever, ammonia, LFT's, tox screen
   - agitated, held off on giving sedating meds
   - sats 95% on nasal cannula
   - held coumadin overnight
   - PICC line not placed
   - switched to DNR/DNI after d/w daughter [**Name (NI) 1442**]
   - put in for S&S consult
   - consider [**Female First Name (un) **]/psych input for delirium/dementia
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-5-28**] 12:09 PM
   Metoprolol - [**2138-5-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-5-29**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 99 (80 - 117) bpm
   BP: 129/111(113) {112/63(74) - 168/145(150)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  120 mL
   PO:
                  120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    825 mL
                                                                    560 mL
   Urine:
                                                                    825 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -825 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: 7.38/59/62//7
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   265 K/uL
   12.2 g/dL
   119 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.0 mEq/L
   18 mg/dL
   101 mEq/L
   142 mEq/L
   38.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2138-5-28**]  12:51 AM
                             [**2138-5-28**]  12:58 AM
                             [**2138-5-28**]  03:30 AM
                             [**2138-5-28**]  11:59 AM
                             [**2138-5-28**]  01:57 PM
   WBC
   8.5
   Hct
   38.9
   Plt
   265
   Cr
   1.3
   TCO2
   41
   40
   41
   36
   Glucose
   119
   Other labs: PT / PTT / INR:26.7/31.1/2.7, Lactic Acid:1.0 mmol/L,
   Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Urine cx [**5-27**]: Negative
   Blood cx [**5-28**]: NGTD
   MRSA [**5-28**]: NGTD
   Assessment and Plan
 DELIRIUM / CONFUSION
 ACIDOSIS, RESPIRATORY
   A/P: [**Age over 90 **] YO F with atrial thrombus coumadin, HTN, CKD, presents with
   altered mental status after a fall with acute decompensation on the
   floor, transferred to the MICU for further care.
   .
   .
   Altered Mental Status: Likely multifactorial to unclude medications
   (Tramadol recently started), hypercarbia, age, toxic-metabolic, and
   underlying dementia.  No evidence to suggest bleed as CT head negative,
   CT chest also neg.  Non-focal exam rules against stroke.  CXR
   unremarkable for change.  Does not use drugs.  Likely has poor
   compensatory capacity.  Per neuron, near baseline on previous
   assessment
   - Hold psychoactive medications, do not give haldol, zyprexa etc
   patient  sundowns and needs re-direction only, no meds
   - Hold tramadol, gabapentin
   - NGTD on cx
   - CXR unremarkable
   - CT head negative
   - Monitor hypercarbia -> BiPAP if needed
   - TSH normal, f/u B12 and folate
   - Appreciate neuro consult: , LP, ammonia, LFTs, tox -> tox negative,
   EEG ordered, LFTs added, ? need for LP and ammonia
   - cancel EEG given drastic improvement in mental status with
   withholding sedating medications including tramadol, neurontin, haldol,
   zyprexa
   .
   Hypercarbia: Appears to be chronic retainer given elevated bicarb.
   ABGs in [**2136**] with C02 in the 50s.  This is above her baseline, making
   it acute on chronic.  Medications likely to blame (i.e. tramadol) vs
   mechanical (has elevated L hemidiaphram which may be impeding
   respiration).  Also found to have apneic episodes at night raising
   concern for apnea
   - Serial ABGs
   - BiPAP if C02 worsens
   - Cont to follow
   - CT chest with atelectasis
   - Standing nebulizers
   - Outpt sleep study
   .
   CKD: Baseline 1.4-1.6.  Currently stable.  Cont to follow
   .
   Atrial Thrombus: Not evident on previous echo.  NO signs of cardiac
   obstruction.  INR 2.7
   - will discuss with PCP as far as continuing on warfarin given risk of
   falls and TTE with no thrombus on last imaging
   .
   Cardiomyopathy: Cont ACE-I, BB, and lasix
   .
   HTN: Stable.  Cont losartan, metoprolol, nifedipine
   .
   Diabetes: Hold oral hypoglyemics for now.
   - HISS and monitor
   .
   Spinal Stenosis: No obvious neuro deficits currently
   - Cont to follow
   - Tylenol standing
   .
   Lipids: Cont statin
   .
   Hypothyoridism:
   - Cont levoxyl at current dose
   - TSH normal
   .
   Glaucoma: Cont drops
   .
   Arthritis: Hold tramadol.  Cont Tylenol standing
   .
   FEN:.  Monitor electroltyes, cont vit D
   - Swallow study
   .
   Access: PIV
   .
   Ppx: PPI, warfarin, bowel regimen
   .
   Code: FULL ,discussed with family
   .
   Dispo: Call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2138-5-27**] 04:36 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: DNR / DNI
   Disposition:Transfer to floor

2138-05-29 10:32:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - intermittently agitated
   - neuro consult
   - DNR/I per discussion with family
   History obtained from Medical records
   Patient unable to provide history: confused
   Allergies:
   Penicillins
   Unknown;
   Aspirin
   gi bleed;
   A.C.E Inhibitors
   cough;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-5-28**] 12:09 PM
   Metoprolol - [**2138-5-29**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-5-29**] 10:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.7
C (98
   HR: 111 (81 - 117) bpm
   BP: 141/96(106) {113/68(83) - 194/145(155)} mmHg
   RR: 17 (13 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  120 mL
   PO:
                  120 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                    825 mL
                                                                    860 mL
   Urine:
                                                                    825 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -825 mL
                                                                   -740 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.38/59/62//7
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.2 g/dL
   265 K/uL
   119 mg/dL
   1.3 mg/dL
   33 mEq/L
   4.0 mEq/L
   18 mg/dL
   101 mEq/L
   142 mEq/L
   38.9 %
   8.5 K/uL
        [image002.jpg]
                             [**2138-5-28**]  12:51 AM
                             [**2138-5-28**]  12:58 AM
                             [**2138-5-28**]  03:30 AM
                             [**2138-5-28**]  11:59 AM
                             [**2138-5-28**]  01:57 PM
   WBC
   8.5
   Hct
   38.9
   Plt
   265
   Cr
   1.3
   TCO2
   41
   40
   41
   36
   Glucose
   119
   Other labs: PT / PTT / INR:26.7/31.1/2.7, ALT / AST:14/21, Alk Phos / T
   Bili:110/0.3, Lactic Acid:1.0 mmol/L, LDH:253 IU/L, Ca++:8.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Age over 90 **]F DM, CRF admitted from NH with altered mental status.  Tramsferred
   to MICU for close observation, mental status monitoring.
   Respiratory
   - hypercarbic and hypoxemic respiratory failure
   - evidence of chronic resp failure (inc bicarb) underlying acute
   decompensation.
   - Bipap noted to improve CO2, pt becomes agitated but no improvement in
   mental status.   As more alert, does not tolerate mask
   Delerium/altered mental status
   - waxing and [**Doctor Last Name 282**] course c/w delerium
   - greatly improved this morning - interactive
   - holding sedating meds
   - appreciate neuro recs
   - afeb, wbc nl so unlikely infectious/meningitis
    Arthritis
    CKD
    Cardiomyopathy
   h/o Lt atrial thrombus
   -had been on anticoag
   -? advisability going forward given ms risk of fall
    HTN
   -iv lopressor for bp control
    Access
   -assess for PICC - periph sticks challenging
    Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-5-27**] 04:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :
   Total time spent: